US09303000B2
In 3-neck 100 mL round-bottomed flask, 3-carbamothioyl-5-(trifluoromethyl)benzamide (3.0 g, 1 eq.) was dissolved in DMF (30 mL, 10 Vol) and dropwise added hydrazine hydrate (1.27 mL, 2.0 eq.) and reaction mixture was stirred at room temperature for 1-2 h. The progress of the reaction was followed by TLC analysis on silica gel with ethyl acetate:hexane (2:8) mobile phase and visualization with UV, SM Rf=0.35 and Product Rf=0.15. Then formic acid (5 mL, 5 vol) was added and stirred for 1 h at the same temperature. Then temperature increased to 90° C. and maintained for 10-12 hrs. The progress of the reaction was followed by TLC analysis on silica gel with 10% methanol: dichloromethane as mobile phase and visualization with UV, SM Rf=0.30 and Product Rf=0.20. Reaction mixture was quenched into the ice-water slurry (300 mL) and extracted in the ethyl acetate (100 mL×3). Organic layer was washed with sodium bicarbonate solution (100×3 mL) followed by drying using anhydrous sodium sulphate. Organic layer was concentrated under reduced pressure to afford 3.0 g of crude compound. The crude reaction mixture was purified by column chromatography using silica 60/120 using methanol: dichloromethane as mobile phase. The column (5×10 cm) was packed in dichloromethane and started eluting in Methanol in gradient manner starting with fraction collection (25 mL fractions) from 3-5% methanol in dichloromethane. Compound started eluting with 3% methanol in dichloromethane. Fraction containing such TLC profile was collected together to obtain pure 3-(1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)benzamide (1.1 g), Yield (36.0%); Mass: (ES+) 257.14 (M+1).

reactant | 3-carbamothioyl-5-(trifluoromethyl)benzamide | 3.0 g, 1 eq. | C(N)(=S)C=1C=C(C(=O)N)C=C(C1)C(F)(F)F | C9H7F3N2OS
reactant | hydrazine hydrate | 1.27 mL, 2.0 eq. | O.NN
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | formic acid | 5 mL | C(=O)O | CH2O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3-(1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)benzamide | 1.1 g | N1N=C(N=C1)C=1C=C(C(=O)N)C=C(C1)C(F)(F)F | C10H7F3N4O
